US05908863
Using, in the process of example 14, ethyl 3-cyclohexyl-2-ethoxycarbonyl-propionate and 2-trityloxyethyl bromide, 4-cyclohexyl-2,2-diethoxycarbonyl-butan-1-ol is obtained and then by reaction in dichloromethane with triphenylphosphine and tetrabromomethane, 4-cyclohexyl-2,2-diethoxy-1-butyl-bromide. A solution of 0.1 g of potassium tert-butylate in 6 ml of THF/EtOH 1:2 is added with 0.15 g of furfurylmercaptan and 0.38 g of 4-cyclohexyl-2,2-diethoxy-1-butyl bromide. The mixture is refluxed for 4 hours under nitrogen atmosphere, evaporated and partitioned between AcOEt and water. After the usual work up, the solvent is evaporated off and the residue is purified on a silica gel column, to obtain 0.34 g of ethyl 4-(fur-2-ylmethylthio)-2-ethoxycarbonyl-2-cyclohexylmethyl-butanoate.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | BrC(Br)(Br)Br | CBr4
reactant | 4-cyclohexyl-2,2-diethoxy-1-butyl-bromide | C1(CCCCC1)CCC(CBr)(OCC)OCC | C14H27BrO2
reactant | potassium tert-butylate | 0.1 g | CC(C)(C)[O-].[K+]
reactant | furfurylmercaptan | 0.15 g | C(C1=CC=CO1)S | C5H6OS
reactant | 4-cyclohexyl-2,2-diethoxy-1-butyl bromide | 0.38 g | C1(CCCCC1)CCC(CBr)(OCC)OCC | C14H27BrO2
reactant | THF EtOH | 6 ml | C1CCOC1.CCO
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4-(fur-2-ylmethylthio)-2-ethoxycarbonyl-2-cyclohexylmethyl-butanoate | 0.34 g | O1C(=CC=C1)CSCCC(C(=O)OCC)(CC1CCCCC1)C(=O)OCC | C21H32O5S
